US04093725
3-Bromo-5-hydroxy-6-methoxyphthalide may be prepared by treating 5-hydroxy-6-methoxyphthalide with N-bromosuccinimide in chloroform. Treatment of 3-bromo-5-hydroxy-6-methoxyphthalide with hydrazine hydrate in boiling aqueous acetic acid gives 6-hydroxy-7-methoxy-1(2H)-phthalazinone, which may be converted into the sulphate of the title compound by the general procedure of Example 1.

reactant | 3-Bromo-5-hydroxy-6-methoxyphthalide | BrC1OC(=O)C2=CC(=C(C=C12)O)OC | C9H7BrO4
reactant | 5-hydroxy-6-methoxyphthalide | OC=1C=C2COC(=O)C2=CC1OC | C9H8O4
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | hydrazine hydrate | O.NN
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-hydroxy-7-methoxy-1(2H)-phthalazinone | OC=1C=C2C=NNC(C2=CC1OC)=O | C9H8N2O3
